US06537994B2
4-[(2S)-3-(2-{4-[2-(4-Cyclohexyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol
(2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-({4-[2-(4-cyclohexylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethyl}amino)-2-propanol (0.317 g, 0.396 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 1% ammonium hydroxide) to give the title compound (0.21 g, 0.37 mmol).

reactant | (2S)-1-(4-{[tert-Butyl(diphenyl)silyl]oxy}phenoxy)-3-({4-[2-(4-cyclohexylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenethyl}amino)-2-propanol | 0.396 mmol, 0.317 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC=C(OC[C@H](CNCCC2=CC=C(C=C2)N2C(=NC=3C2=NC=CC3)C3=CC=C(C=C3)C3CCCCC3)O)C=C1 | C51H56N4O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[(2S)-3-(2-{4-[2-(4-Cyclohexyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol | 0.37 mmol, 0.21 g | C1(CCCCC1)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C35H38N4O3
